### PR TITLE
Partially merge master into rt

### PR DESCRIPTION
**Pull request by corlewis**
Significant changes merged in that are visible to rt proofs:
* refine: improve typ_at_lifts lemmas
* refine: add typ_at_props' locale
* refine: use typ_at_props' locales

As always with these merges, the main commit to review is the 'update after merge' one. Quite a lot of work went into the merge commit itself, trying to resolve conflicts in a way that minimised the overall effort, but I don't know how feasible that is to review.

`Invariants_H` and `ArchInvsLemmas_H` are the most important files to review in the after-merge commit, as they arch-split the extended `typ_at_props'` locales that rt uses.

### CODE REVIEW

**Review by lsf37 — APPROVED** [review]
Looks good from my side, no issues.

File: proof/refine/InvariantUpdates_H.thy [hunk 1]
```diff
@@ -24,6 +24,9 @@ arch_requalify_facts
 sublocale gen_typ_at_props' < gen_typ_at_props'_interface \<open>TYPE('f_rvt)\<close> f
   by unfold_locales (fact typ')
 
+sublocale gen_typ_at_all_props' < gen_typ_at_all_props'_interface \<open>TYPE('f_rvt)\<close> f
```
Comment (Xaphiosis) [inline proof/refine/InvariantUpdates_H.thy:27]: total bikeshed: I think this notation can be done with either `<` or a subset. I think for most sublocales we do use subset, but for typ_at we did more `<`? Any reasoning or thoughts behind this, am I missing something?

**Review by Xaphiosis — APPROVED** [review]
Looking at the post-merge commit, it looks like things have gone remarkably well this time. Looks good, go ahead from my side.

File: proof/refine/InvariantUpdates_H.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/InvariantUpdates_H.thy:27]: No conscious reasoning behind this that I'm aware of, although some of the related sublocales would have been first done on the rt branch back in 2020, so might have been before we standardised on anything else.

Do you have a preference for subset? If so I'm happy to change, although it would be in a separate PR to master, to eventually be merged into rt.

Comment (Xaphiosis) [reply proof/refine/InvariantUpdates_H.thy:27]: Would be nice to converge to subset notation, but it's definitely not a high priority and as you say, not for this PR.

File: proof/refine/RISCV64/ArchSchedule_R.thy [hunk 2]
```diff
@@ -165,6 +165,11 @@ lemma bitmapQ_lookupBitmapPriority_simp[Schedule_R_assms]:
    apply (fastforce intro: word_of_nat_less simp: wordRadix_def' unat_of_nat word_size)+
   done
 
+lemma Arch_switchToIdleThread_invs'[Schedule_R_assms]:
+  "Arch.switchToIdleThread \<lbrace>invs'\<rbrace>"
+  unfolding switchToIdleThread_def
+  by (wpsimp wp: )
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/ArchSchedule_R.thy]: Nitpick: extra `wp: `

File: proof/refine/Invariants_H.thy [hunk 3]
```diff
@@ -2645,30 +2636,16 @@ lemma valid_obj'_typ_at_lift:
...
-            simp add: valid_ntfn'_def split: option.splits,
-            (wpsimp|rule conjI)+)
-    apply (rename_tac tcb)
-    apply (case_tac "tcbState tcb";
-           simp add: valid_tcb'_def valid_tcb_state'_def split_def opt_tcb_at'_def;
-           wpsimp wp: sz hoare_case_option_wp)
-   apply (wpsimp simp: valid_cte'_def sz)
-  apply (wpsimp simp: valid_reply'_def)
+  apply (cases obj; simp add: valid_obj'_def hoare_TrueI; (solves \<open>wpsimp\<close>)?)
+   apply (rename_tac tcb)
```
Comment (michaelmcinerney) [inline proof/refine/Invariants_H.thy]: There's an unused `rename_tac` here, but it's old, so feel free to leave it.

File: proof/refine/Invariants_H.thy [hunk 4]
```diff
@@ -2679,11 +2656,15 @@ lemmas valid_arch_obj'_typ_at_lift =
   valid_obj'_typ_at_lift[where obj="KOArch ko" for ko, simplified valid_obj'_def kernel_object.case]
 
 lemmas gen_typ_at_lifts =
-  gen_typ_at_lifts_strong_internal cte_at'_typ_at_lift' valid_untyped'_typ_at_lift
-  valid_bound_tcb'_typ_at_lift valid_bound_ntfn'_typ_at_lift valid_ntfn'_typ_at_lift'
-  valid_irq_node'_typ_at_lift valid_cap'_typ_at_lift valid_obj'_typ_at_lift valid_arch_cap'_typ_at_lift
-  valid_ep'_typ_at_lift valid_ntfn'_typ_at_lift valid_tcb'_typ_at_lift valid_cte'_typ_at_lift
-  valid_arch_obj'_typ_at_lift
+  gen_typ_at_lifts_strong_internal cte_at'_typ_at_lift'
+  valid_irq_node'_typ_at_lift   valid_arch_cap'_typ_at_lift
```
Comment (michaelmcinerney) [inline proof/refine/Invariants_H.thy]: Extra couple spaces here.

**Review by michaelmcinerney — APPROVED** [review]
Looks great!

File: proof/refine/InvariantUpdates_H.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/InvariantUpdates_H.thy:27]: Done in https://github.com/seL4/l4v/pull/1055
